US04176116
10 g (0.04 mol) of N-benzyloxycarbonyl-L-alanine ethylamide were stirred for 1 hour in 50 ml of 4-N hydrobromic acid in acetic acid. To the solution were added 300 ml of dry ether and, after stirring for a few minutes, the white solid was allowed to settle and the ether decanted from the solid. The yield of L-alanine ethylamide hydrobromide obtained was 8.0 g (96.6%).

reactant | N-benzyloxycarbonyl-L-alanine ethylamide | 0.04 mol, 10 g | C(C)NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O | C13H18N2O3
reactant | hydrobromic acid | Br | BrH
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | L-alanine ethylamide hydrobromide | Br.C(C)NC([C@@H](N)C)=O | InChI=1S/C5H12N2O.BrH/c1-3-7-5(8)4(2)6;/h4H,3,6H2,1-2H3,(H,7,8);1H/t4-;/m0./s1
